US08202865B2
Step 1: 3-{[(2-Hydroxyethyl)amino]methyl}benzonitrile
To a stirred solution of ethanolamine (2.32 g, 0.0381 mol) in toluene (100 mL), was added 3-cyanobenzaldehyde (5 g, 0.0381 mol) under N2 and refluxed at 140° C. After complete distilling out of toluene, the reaction mass was cooled to RT and dissolved in dry methanol (100 mL). To this solution was added in portions sodium borohydride (2.17 g, 0.0571 mol) at 0° C. The reaction mass was evaporated under pressure, washed with water (100 mL), extracted in DCM (100 mL), dried using sodium sulphate and concentrated under reduced pressure. The obtained crude was purified using column chromatography on silica and chloroform/methanol as eluent to afford the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 7.76 (s, 1H), 7.65-7.69 (m, 2H), 7.49-7.52 (m, 1H), 4.45-4.48 (m, 1H), 3.74 (s, 2H), 3.42-3.46 (m, 2H), 2.51-2.54 (m, 2H).

reactant | ethanolamine | 0.0381 mol, 2.32 g | C(O)CN | C2H7NO
reactant | 3-cyanobenzaldehyde | 0.0381 mol, 5 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | sodium borohydride | 0.0571 mol, 2.17 g | [BH4-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{[(2-Hydroxyethyl)amino]methyl}benzonitrile | OCCNCC=1C=C(C#N)C=CC1 | C10H12N2O
